US04748240
3-[4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl]-9-oxa-3-azabicyclo[3.3.1]nonane-2,4-dione
Tetrahydropyran-2,6-dicarboxylic anhydride (3.0 g., 19 mmole) and 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine (4.98 g., 21 mmole) were combined and stirred for 30 minutes in 200 ml. of methylene chloride. The solvent was removed in vacuum and replaced with 300 ml. of xylene. The mixture was refluxed for 48 hours with water removal via a Dean-Stark trap. The solvent was again removed in vacuum and the residue was column chromatographed on 100 g. of silica with a gradient elution beginning with chloroform and ending with 5% ethanol in chloroform. The relevant fractions were combined and evaporated and the product crystallized from isopropanol with the addition of 4N isopropanolic HCl and ether. A second crystallization from isopropanol gave 1.9 g. of the title compound as the dihydrochloride, hemihydrate; m.p. 232°-233° C. (d).

reactant | Tetrahydropyran-2,6-dicarboxylic anhydride | 19 mmole, 3.0 g | O1C2CCCC1C(=O)OC2=O | C7H8O4
reactant | 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine | 21 mmole, 4.98 g | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl]-9-oxa-3-azabicyclo[3.3.1]nonane-2,4-dione | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(C2CCCC(C1=O)O2)=O | C19H27N5O3
